US08580973B2
An amount of 54.25 g (0.529 mol) of 2,2-difluoro-1-chloroethane, 9.1 g (0.066 mol) of potassium carbonate and 50 g (0.264 mol) of potassium phthalimide are dissolved in 237 g of N,N-dimethylformamide. The reaction mixture is stirred in an autoclave under pressure at 120° C. for 12 h. After the end of the reaction, cooling is carried out to ambient temperature and the solvent is exhaustively removed under vacuum. The remaining residue is treated with 250 ml of water and the solid is filtered off. The filter residue is washed twice with water and the product is dried under vacuum. An amount of 55.5 g of 2-(2,2-difluoroethyl)-1H-isoindole-1,3(2H)-dione with a purity of 96.5% is obtained. This corresponds to a yield of 95.8% of theory.

reactant | 2,2-difluoro-1-chloroethane | 0.529 mol, 54.25 g | FC(CCl)F | C2H3ClF2
reactant | potassium carbonate | 0.066 mol, 9.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium phthalimide | 0.264 mol, 50 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | N,N-dimethylformamide | 237 g | CN(C=O)C | C3H7NO
product | 2-(2,2-difluoroethyl)-1H-isoindole-1,3(2H)-dione | 55.5 g, yield of 95.8% | FC(CN1C(C2=CC=CC=C2C1=O)=O)F | C10H7F2NO2
